US05223539
N-cyclohexyl-4-(3-methoxyphenoxy)-N-(1-methylethyl)benzamide
The reaction and workup were carried out in the same manner as described in Example 1 using p-bromobenzoic acid N-isopropyl-N-cyclohexyl amide (1.798 g, 5.54 mmol), 3-methoxy phenol (769 mg, 6.19 mmol) and cuprous oxide (403 mg, 2.82 mmol) in 2,4,6-collidine (15 ml). The crude product was chromatographed on silica gel using mixtures of ethyl acetate and hexane as eluents to give the title compound as a crystalline solid that could be recrystallized from ethyl acetate and hexane, m. pt. 101.24° C. (DSC).

reactant | p-bromobenzoic acid N-isopropyl-N-cyclohexyl amide | 5.54 mmol, 1.798 g | C(C)(C)N(C(C1=CC=C(C=C1)Br)=O)C1CCCCC1 | C16H22BrNO
reactant | 3-methoxy phenol | 6.19 mmol, 769 mg | COC=1C=C(C=CC1)O | C7H8O2
solvent | 2,4,6-collidine | 15 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | N-cyclohexyl-4-(3-methoxyphenoxy)-N-(1-methylethyl)benzamide | C1(CCCCC1)N(C(C1=CC=C(C=C1)OC1=CC(=CC=C1)OC)=O)C(C)C | C23H29NO3
